US04152442
2-Amino-5-methyl-1,3,4-thiadiazole (23 g, 0.2 mole) and benzaldehyde (29.6 ml, 0.3 mole) were refluxed together in ethanol (200 ml) for 11/2 hours. The solution was cooled to room temperature and sodium borohydride (11.35 g, 0.3 mole) added over 5 to 10 minutes. The mixture was refluxed for 4 hours, treated with further sodium borohydride (5 g) and refluxed overnight. The ethanol was evaporated off, the residue treated with water and extracted with ether. The ether extract was dried over sodium sulphate, filtered and evaporated to leave an oil which solidified. This solid was triturated with ether, filtered, washed with light petroleum (b.p. 40°-60° C.) and again triturated with ether and filtered to give N-(5-methyl-1,3,4-thiadiazol-2-yl)-benzylamine (30.95 g), which on recrystallisation from ether had m.p. 140° C.

reactant | 2-Amino-5-methyl-1,3,4-thiadiazole | 0.2 mole, 23 g | NC=1SC(=NN1)C | C3H5N3S
reactant | benzaldehyde | 0.3 mole, 29.6 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 0.3 mole, 11.35 g | [BH4-].[Na+]
reactant | sodium borohydride | 5 g | [BH4-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N-(5-methyl-1,3,4-thiadiazol-2-yl)-benzylamine | 30.95 g | CC1=NN=C(S1)NCC1=CC=CC=C1 | C10H11N3S
